US07592477B2
Step c) Formation of 4-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)-benzoic acid
H2 (1 atm) was bubbled slowly trough a suspension of 10% Pd/C (917 mg) in EtOH (25 mL) for 15 min at rt. To this suspension was then added a solution of benzyl 4-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)benzoate (4.303 g, 8.61 mmol) diluted in EtOH (5 mL). The resulting reaction mixture was stirred under 1 atm H2 for 4.5 h at rt. The reaction mixture was filtered over a pad of celite to remove the catalyst. EtOH was evaporated to afford the title compound as a colorless oil used in the next steps without further purification (3.520 g, 99%). 1H NMR (CDCl3, 300 MHz) δ 8.11 (d, J=8.1 Hz, 2H), 7.62 (d, J=8.1 Hz, 2H), 7.45-7.21 (m, 4H), 5.54 (s, 2H), 4.45 (s, 2H), 1.50 (s, 9H). HPLC (Condition A), Rt: 5.42 min (HPLC purity: 96.1%).

reactant | benzyl 4-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)benzoate | 8.61 mmol, 4.303 g | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C28H28F3NO4
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)-benzoic acid | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C(=O)O)C=C1 | C21H22F3NO4
